
.subckt inverter in out VDD GND

X1 out in GND GND sky130_fd_pr__nfet_01v8 l={L} w={W}
X2 VDD in out VDD sky130_fd_pr__pfet_01v8 l={L} w={2*W}

.ends inverter
